Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin
 
Attending: ___.
 
Chief Complaint:
GI bleed  
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o  male, resident of ___, with aortic mechanical 
valve secondary to Listeria endocarditis (on coumadin), Coombs 
positive autoimmune hemolytic anemia (warm autoantibody, on 
prednisone), CAD s/p NSTEMI ___, CKD stage III, chronic CHF 
(likely diastolic with EF 50%), and history of GIB who presents 
from rehab with dropping HCT. HCT today was 21.8 down from 27.3 
on ___. Vitals prior to transfer to ED were T 97.2 BP 
108/64 HR 86 RR24 99% RA. 
.
On arrival to the ED vitals were 97 99/56 84 16 99% RA. In the 
ED pt reported feeling tired and was noted to be pale.  HCT was 
17.9 (baseline HCT ___ and INR was 6.1. BUN was notable to be 
elevated to 61 with creatinine at baseline of 1.3. Pt had brown 
stool but was strongly guaiac positive with indicator.  A right 
femoral line was placed and an 18 gauge IV was placed. The pt 
was transfused 2 units of packed RBCs, 2 units of FFP, and 2L of 
IVF. Vit K was discussed but not given per ED attd recs. He was 
seen by heme onc who recommended adding on hemolysis labs. He 
received protonix 40 IV x1 and GI recommended against PPI gtt.  
They plan for colonoscopy once INR is down. SBP nadired at 95 in 
the ED which is low compared to patient's baseline (SBP 120s).   
He got tylenol ___ po x1 for right shoulder pain. His EKG was 
unchanged compared to prior.
.
On arrival to the ICU vitals were 97.8 150/67 RR18 96% RA.  He 
had shoulder pain at the time of transfer from the streatcher. 
He then was pain free. He reported being weak. He states he 
feels good after his blood transfusions but otherwise often 
feels weak.  He reports approximately 1 BM per day and denies 
blood in the stool or black stool.

 
Past Medical History:
# Anemia from GI bleed of gastric ulcer vs. hemolytic anemia 
# Autoimmune hemolytic anemia (Coomb's +, warm autoantibody), 
previously on prednisone ___
# Listeria Endocarditis s/p AVR, suppressive amoxicillin stopped
due to hemolytic anemia
# Aortic mechanical valve, recently Coumadin resistant so on 
Lovenox bridge
# hx recent GI bleeds: colonoscopy ___: noted normal colon, 
hemorrhoids
# GERD: EGD ___ ___ with non-bleeding ulcers in 
esophagus and stomach
# H/o presyncope
# CKD Cr 1.6-2.0  Stage III
# CAD s/p NSTEMI ___
# Chronic CHF, likely diastolic, on diuretics ___ EF=50%)
# Hyperlipidemia
# Hypertension 
# Depression vs adjustment disorder after death of brother
# ___ cancer- s/p radiation 
# Bladder/bowel incontinence  
# Right lateral malleolus stage 1 pressure ulcer
# Dementia

 
Social History:
___
Family History:
No bleeding diatheses.  Father had stomach cancer.  No other 
cancers including colon.

 
Physical Exam:
Admission PE:
VS: 97.8 150/67 RR18 96% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, dry mm, oropharynx clear    
Lungs: CTAB posteriorly
CV: mechanical S1 and S2, no murmurs, rubs, gallops  
Abdomen: + ventral hernia, soft, non-tender, non-distended, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Stage 1 ulcer on left lateral malleolus
Neuro: A & O x3, surgicsl pupils but reactive, CN II-XII intact, 
UE and ___ strength ___
 
Pertinent Results:
___ 05:14PM   GLUCOSE-108* UREA N-61* CREAT-1.3* SODIUM-139 
POTASSIUM-4.2 CHLORIDE-108 TOTAL CO2-24 ANION GAP-11
___ 05:14PM   ALT(SGPT)-12 AST(SGOT)-15 LD(LDH)-216 
CK(CPK)-19* ALK PHOS-34* TOT BILI-0.3
___ 05:14PM   CK-MB-3 cTropnT-0.02*
___ 05:14PM   CALCIUM-8.1* PHOSPHATE-3.3 MAGNESIUM-2.0
___ 05:14PM   HAPTOGLOB-5*
___ 05:14PM   GLUCOSE-102 LACTATE-1.6
___ 05:14PM   HGB-6.1* calcHCT-18
___ 05:14PM   WBC-8.9# RBC-1.74*# HGB-6.2*# HCT-17.9*# 
MCV-103* MCH-35.5* MCHC-34.5 RDW-21.3*
___ 05:14PM   NEUTS-80* BANDS-0 LYMPHS-14* MONOS-6 EOS-0 
BASOS-0 ___ MYELOS-___  male, resident of ___, with aortic mechanical valve 
secondary to Listeria endocarditis (on coumadin), Coombs 
positive autoimmune hemolytic anemia (warm autoantibody, on 
prednisone), CAD s/p NSTEMI ___, CKD stage III, chronic CHF 
(likely diastolic with EF 50%), and history of GIB who presents 
from rehab with low hematocrit. 
.
# GI bleed: The patient was noted to have a hematocrit drop from 
 32 to 17.4 in the setting of supratherapeutic INR of 6.1. He 
was h/o chronic anemia with baseline Hct ___ secondary to warm 
autoimmune hemolytic anemia, Chronic kidney disease, and 
myelodysplasia.  He had recent admission for HCT drop and upper 
endoscopy which showed a non-bleeding duodenal polyp and a small 
hiatal hernia. He has history of esophageal erosions/non 
bleeding stomach ulcers/gastritis/lymphangiectasias. However, pt 
did also have radiation for prostate cancer which could lead to 
a lower GI etiology. Given this history we were concerned for GI 
bleed. He had a femoral line placed in the ED for access which 
was transitioned to a PICC line in the ICU on ___.  He 
received a total of 4 units of packed RBCs and 4 units of FFP.  
Subsequently his Hct remained between 24 to 27. GI was consulted 
and an EGD was performed. The EGD showed a small hernia but was 
otherwise normal with no identifiable source of bleeding. A 
capsule endoscopy was then performed and the results were not 
available at the time of discharge (plan to be read week of ___. He remained hemodynamically stable with stable blood count 
on serial hematocrits (HCT of 27 morning of discharge). He was 
continued on prednisone 10mg po daily for his autoimmune 
hemolytic anemia.
.
# Atrial fibrillation - pt had new onset a fib with RVR to 
130s-150s on hospital day number 2. He received IV metoprolol 
and IV digoxin with good rate control. He was started on 
metoprolol 12.5mg BID (carvedilol d/c). We transitioned ot 
metoprolol succinate 25mg daily at discharge (not given ___. 
He is already on anticoagulation for mechanical aortic valve 
placed many years ago. Cardiology believed that no intervention 
was necessary for the atrial fibrillation acutely and that it 
should resolve spontaneously after GI bleed resolves. At 
discharge, heart rate noted to be regular with sinus rhythm on 
EKG.
.
# Possible Bacteremia - blood cultures on ___, drawn in 
setting of temp to 100.6, with one out of four bottles positive 
for Gram + rods and Gram + cocci.  He was started on vancomycin 
emperically on ___ pending speciation. Surveillance 
cultures are negative to date. These will need to be followed at 
___ as results may represent contaminant rather than 
bacteremia. 
.
# CAD s/p NSTEMI: Pt with shoulder pain in ED. During last 
admission had left arm pain which was felt to be the result of 
demand ischemia in the setting of an acute HCT drop.  He did 
have a + troponin at the last admission.  His EKG was 
unremarkable and his troponin plateaued at 0.07.  He was 
continued home statin, carvedilol held and started on metoprolol 
succinate as above.
.
# Aortic mechanical valve:  Noted to have supratherapeutic INR 
of 6.1 on admission (normally his goal INR is 2.5-3.5).  He was 
given 4 units of FFp, but no vitamin K. INR trended down and was 
1.2 at discharge. He was started on heparin drip after 
hematocrit stabalized and INR subtherapeutic. He has been 
maintained on heparin for the past 48 hours (PTT of 74 at 
discharge) and coumadin has been held during hospitalization. 
Plan was to restart coumadin on the day of admission, we will 
continue 4mg as we are stopping bactrim, which can elevated INR. 
He will need to be on heparin bridge until INR therepeutic (goal 
2.5-3.5). 
.
# Autoimmune hemolytic anemia: Continued home prednisone and 
bactrim for ppx. We discussed at length the risk-benefit of 
continuing bactrim given that it can cause supratherapeutic INR, 
since pt is on this for Listeria prophylaxis, we decided to 
discontinue this. His folic acid was continued.
.
# Stage III CKD: Baseline appears to be 1.2 to 1.3 since ___. 
Pt at recent creatinine baseline.
.
# Subclinical Hypothyroidism: Continued home levothyroxine 75 
mcg daily
.
# Hyperlipidemia: Continued home statin
.
# Comm: HCP ___ ___ (cell)
 
Medications on Admission:
--Bactrim 400-80 mg 1 tab daily 
--clindamycin 600mg po prn
--folic acid 1 mg Four Tablet PO DAILY
--ipratropium bromide 0.02 % Solution 0.5 mg q 4hr prn SOB 
--levothyroxine 75 mcg daily
--omeprazole 40 mg po BID
--prednisone 10mg po daily
--simvastatin 40 mg PO DAILY 
--warfarin 2 mg, 2 Tablet PO Once Daily
--acetaminophen 325 mg 2 Tablet PO Q6H prn pain
--bisacodyl 5 mg, 2 Tablet, Delayed Release q 2 days prn
--guaifenesin 100mg q4hr prn
--vit b12 2000mcg daily
--senna17.2 mg qhs
--carvedilol 3.125 mg po BID
 
Discharge Medications:
1. levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. folic acid 1 mg Tablet Sig: Four (4) Tablet PO DAILY (Daily). 
 
4. ipratropium bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours) as needed for SOB.  
5. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for fever, pain.  
6. cyanocobalamin (vitamin B-12) 1,000 mcg Tablet Sig: Two (2) 
Tablet PO once a day.  
7. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
8. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO every other day.  
10. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
11. warfarin 1 mg Tablet Sig: Four (4) Tablet PO once a day.  
12. metoprolol succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.  
13. vancomycin in D5W 1 gram/200 mL Piggyback Sig: One (1)  
Intravenous Q 24H (Every 24 Hours).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Gastrointestinal bleeding
Bacteremia 
Atrial fibrillation
  
Secondary:
Aortic mechanical valve
Autoimmune hemolytic anemia
Chronic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted from ___ to ___ for a drop in your 
hematocrit (red blood cell count) and dark stools suggesting 
bleeding in your GI tract. You were initially taken to the ICU 
but stabilized there after receiving blood. Your INR was high on 
admission, which can predispose to bleeding, and your coumadin 
was held. The gastroenterologists evaluated you and did an EGD 
(upper endoscopy) which showed a small hernia but was otherwise 
normal. You undewerwent a video capsule study and will follow up 
with gastroenterology as an outpatient for the results. Your 
blood counts remained stable and there was no further evidence 
of active gastrointestinal bleeding. 

You were restarted on heparin after the EGD, which will be 
continued until your coumadin level is therapeutic. Before the 
procedue, you were found to have an arrhythmia in your heart 
called atrial fibrillation. You were given a medication called 
metoprolol to control your heart rate from going too fast. This 
medication will be continued when you leave the hospital. Your 
hear was back in the normal rhythm at discharge. 

Blood cultures grew bacteria, for which we started antibiotics. 
This will be continued when you return to ___. 
   
You should follow up with your hematologist at the date/time 
below. 
  
We have made the following changes to your medications:
- START taking heparin until your coumadin level is therapeutic
- START taking vancomycin for bacteria in the blood
- START TAKING metoprolol succinate for heart rate 
- STOP TAKING carvedilol 
- STOP TAKING bactrim 
  

 
Followup Instructions:
___